US07034039B2
3-(Aminomethyl)-2-isobutyl-6-(1,3-oxazol-5-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride
Tert-butyl[2-isobutyl-6-(1,3-oxazol-5-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.14 g, 0.30 mmol) was dissolved in methanol (4 mL) and a solution (10 mL) of 4N hydrogen chloride in ethyl acetate were added thereto. This mixture was stirred at room temperature for 1 h and the precipitated crystals were collected by filtration to give the title compound (0.084 g, 69%) as a colorless powder.

reactant | Tert-butyl[2-isobutyl-6-(1,3-oxazol-5-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.30 mmol, 0.14 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=CN=CO1)=O)CC(C)C)=O | C28H31N3O4
reactant | hydrogen chloride | 4N, 10 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Aminomethyl)-2-isobutyl-6-(1,3-oxazol-5-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.084 g, 69% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=CN=CO1)=O)CC(C)C | InChI=1S/C23H23N3O2.ClH/c1-15(2)13-26-20(11-24)22(16-6-4-3-5-7-16)19-10-17(21-12-25-14-28-21)8-9-18(19)23(26)27;/h3-10,12,14-15H,11,13,24H2,1-2H3;1H
